US09399730B2
A mixture of 4-chloronitrobenzene (55.0 g, 349 mmol), benzotriazole (50.0 g, 420 mmol), potassium carbonate (200 g, 500 mmol), and NMP (500 mL) was stirred and heated under argon at 130° C. for 5 hours. Progress of the reaction was monitored by thin layer chromatography. The reaction mixture was poured onto crushed ice (2 kg). After all ice melted, the solid was filtered off and washed with water (200 mL). The product was suspended in methanol (1.5 L) and stirred for 30 minutes. The crystals were filtered off and dried in a vacuum oven. Column chromatography of the obtained material using silica gel and hot solution of ethyl acetate (1%) in toluene as an eluent gave 2-(4-nitrophenyl)-2H benzo[d][1,2,3]triazole (24.24 g, 30% yield). 1H NMR (400 MHz, CDCl3): δ 8.57 (d, J=9.2 Hz, 2H, 4-nitrophenyl), 8.44 (d, J=9.2 Hz, 2H, 4-nitrophenyl), 7.93 (m, 2H, benzotriazole), 7.47 (m, 2H, benzotriazole).

reactant | 4-chloronitrobenzene | 349 mmol, 55.0 g | ClC1=CC=C(C=C1)[N+](=O)[O-] | C6H4ClNO2
reactant | benzotriazole | 420 mmol, 50.0 g | N1N=NC2=C1C=CC=C2 | C6H5N3
reactant | potassium carbonate | 500 mmol, 200 g | C([O-])([O-])=O.[K+].[K+]
solvent | NMP | 500 mL | CN1CCCC1=O | C5H9NO
product | 2-(4-nitrophenyl)-2H benzo[d][1,2,3]triazole | 24.24 g, 30% yield | [N+](=O)([O-])C1=CC=C(C=C1)N1N=C2C(=N1)C=CC=C2 | C12H8N4O2
